* 
*#SIMETRIX
V1 V1_P 0 AC 1
R1 U1_OUT2 0 1K
U1 V1_P V1_P U1_OUT2 U1_OUT2 U1$TP_ACTABLE
.model U1$TP_ACTABLE ACTABLE load="\\mac\Home\Downloads\beads_commercial_power_mpz1608_spara\MPZ1608S102ATA00.s2p"
.AC DEC 25 1k 1Meg

